US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0553 g, 0.121 mmol), (6-(benzyloxy)pyridin-3-yl)boronic acid (0.042 g, 0.182 mmol) and 2M Na2CO3 (0.152 ml, 0.304 mmol) in DMF (2 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (0.014 g, 0.012 mmol) added, degassed for 5 min and placed in a pre-heated oil bath at 110° C. After 2 h, cooled and purified by prep-HPLC to afford (S)-ethyl 2-(6′-(benzyloxy)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-[3,3′-bipyridin]-5-yl)-2-(tert-butoxy)acetate (0.016 g, 0.029 mmol, 23.54% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 8.08-8.10 (m, 0.5H), 8.00 (d, J=1.9 Hz, 0.5H), 7.51-7.54 (m, 2.5H), 7.39-7.44 (m, 2.5H), 7.34-7.38 (m, 1H), 6.92-6.96 (m, 1H), 6.05 (s, 1H), 5.41-5.55 (m, 2H), 4.23-4.30 (m, 1H), 4.15-4.22 (m, 1H), 3.26 (d, J=12.3 Hz, 0.5H), 3.19 (d, J=11.5 Hz, 0.5H), 2.87-2.96 (m, 0.5H), 2.75-2.83 (m, 0.5H), 2.63 (s, 1.5H), 2.62 (s, 1.5H), 2.38 (d, J=11.2 Hz, 0.5H), 2.26-2.31 (m, 0.5H), 2.25 (s, 1.5H), 2.23 (s, 1.5H), 2.05-2.18 (m, 1H), 1.50-1.57 (m, 1H), 1.35-1.44 (m, 1H), 1.27 (dt, J=2.2, 7.1 Hz, 3H), 1.22 (s, 4.5H), 1.21 (s, 4.5H), 1.06-1.16 (m, 2H), 0.92 (s, 3H), 0.67 (br. s., 3H). LCMS (M+H)=560.4.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.121 mmol, 0.0553 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (6-(benzyloxy)pyridin-3-yl)boronic acid | 0.182 mmol, 0.042 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)B(O)O | C12H12BNO3
reactant | Na2CO3 | 0.304 mmol, 2M, 0.152 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 0.012 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(6′-(benzyloxy)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-[3,3′-bipyridin]-5-yl)-2-(tert-butoxy)acetate | 0.029 mmol, 0.016 g, 23.54% yield | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)[C@@H](C(=O)OCC)OC(C)(C)C)C)C | C34H45N3O4
